Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena, anemia
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ male chronic R shoulder pain with multiple right
shoulder surgeries, depression, and anxiety, as well as
significant MVA ___ who presents with black stools for the
last 5 days. 

He has noted multiple loose black stools. Began 5 days ago,
intermittent since then, a couple of times per day, not
increasing or decreasing in frequency. No pain. No n/v, no
fevers. No urgency. No clots or bright red blood per rectum. No
prior history of black or bloody stool. Is not on
anticoagulation. Denies consumption of NSAIDs or significant
alcohol consumption but does take Excedrin with aspirin
intermittently for migraines. No known history of liver disease
or varices. Is additionally complaining of chest pressure and
dyspnea on exertion, lightheadedness on standing and walking. 
One
episode of near syncope with a fall rising sitting to standing.
Has been feeling progressively worse in terms of fatigue,
lightheadedness but delayed coming in over Christmas

Last PCP ___ ___ reviewed and summarized as follows: 
Pt has been following up with neurology for new daily h/a ___
pain on topomax 50 BID; keppra was on previously but stopped
after EEG showed only nonspecific brief bursts of focal slowing,
nonspecific. Also with back pain; went to spine clinic early
___, had acute right sacral radiculopathy to L5/S1. There
was a question of whether his MVC had been preceded by some
syncopal event given retrograde amnesia of event; PCP was
planning ___, TTE as outpatient

In ED:
VS: afeb, HR 112 --> 84 (post IVF), 101/76, RR 22, 100% RA
ED Exam: pale but comfortable, no ab TTP; hemoccult+
Labs: wbc 8, Hb 6.8, CMP unremarkable; Cr 0.7, UA unremarkable;
INR 1.2
sent ucx, T&S
Imaging: none
Received: Panotprazole 40 IV, 1L NS
Consult: GI - rec PPI and transfuse; no immediate plan overnight
to scope

On floor arrival, was feeling somewhat better aftger IVF and
transfusion in the ED but now feeling more LH again. Feels he is
paler. Does endorse some subacute weight loss at home though
feels like his diet has been normal. Several factors may be
contributing including some increased depressed mood since his
serious accident, as well as maybe some disruption to appetite
while on topomax (now DC'd; was taking for migraine ppx but did
not like the way it affected his mood/energy/appetite).

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
cerebellar cyst on the left side
childhood asthma
 
Social History:
___
Family History:
Father is healthy. Mother passed away from breast CA age of ___. 
His aunt passed away from breast CA at age ___. He has a sister 
who is currently healthy.  
 
Physical Exam:
VS: ___ 0756 Temp: 98.0 PO BP: 84/59 R Lying HR: 59 RR: 18
O2 sat: 96% O2 delivery: Ra 

GENERAL: Pleasant pale man in hospital bed, in NAD.
EYES: PERRL. EOMI. Anicteric sclerae. 
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD.
PULM: Breathing comfortably on room air. Lungs clear to
auscultation. No wheezes or crackles. Good air movement
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. 
EXTR: No lower extremity edema. Distal extremity pulses palpable
throughout.
PSYCH: Pleasant, cooperative. Follows commands, answer questions
appropriately. Appropriate affect.
 
 
Pertinent Results:
=================
LABS
=================
___ 06:21AM BLOOD WBC-5.7 RBC-3.84* Hgb-11.4* Hct-33.6* 
MCV-88 MCH-29.7 MCHC-33.9 RDW-14.5 RDWSD-43.3 Plt ___
___ 12:50PM BLOOD WBC-6.2 RBC-4.02* Hgb-11.9* Hct-34.5* 
MCV-86 MCH-29.6 MCHC-34.5 RDW-13.7 RDWSD-41.2 Plt ___
___ 06:22AM BLOOD WBC-5.2 RBC-3.63* Hgb-10.7* Hct-31.4* 
MCV-87 MCH-29.5 MCHC-34.1 RDW-13.8 RDWSD-42.0 Plt ___
___ 10:35PM BLOOD WBC-7.1 RBC-3.11* Hgb-8.9* Hct-26.6* 
MCV-86 MCH-28.6 MCHC-33.5 RDW-13.9 RDWSD-42.1 Plt ___
___ 05:30PM BLOOD WBC-7.6 RBC-3.28* Hgb-9.6* Hct-28.4* 
MCV-87 MCH-29.3 MCHC-33.8 RDW-13.8 RDWSD-42.4 Plt ___
___ 05:20AM BLOOD WBC-6.5 RBC-2.52* Hgb-7.1* Hct-21.6* 
MCV-86 MCH-28.2 MCHC-32.9 RDW-13.4 RDWSD-40.0 Plt ___
___ 12:50PM BLOOD WBC-8.2 RBC-2.40* Hgb-6.8* Hct-20.0* 
MCV-83 MCH-28.3 MCHC-34.0 RDW-12.3 RDWSD-35.8 Plt ___
___ 06:22AM BLOOD Glucose-92 UreaN-9 Creat-0.8 Na-143 K-3.6 
Cl-107 HCO3-27 AnGap-9*
___ 05:20AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-142 
K-4.1 Cl-107 HCO3-25 AnGap-10
___ 12:50PM BLOOD Glucose-97 UreaN-20 Creat-0.7 Na-140 
K-4.0 Cl-106 HCO3-24 AnGap-10
___ 12:50PM BLOOD ALT-10 AST-12 AlkPhos-48 TotBili-0.2
___ 06:22AM BLOOD Mg-2.0 Iron-113
___ 05:20AM BLOOD Calcium-8.0* Phos-4.0 Mg-1.9
___ 12:50PM BLOOD Albumin-3.9
___ 06:22AM BLOOD calTIBC-230* Ferritn-81 TRF-177*

=================
MICRO
=================
___ Ucx neg
___ H. Pylori Ab assay (serology/blood): pending

=================
IMAGES AND STUDIES
=================
EGD ___ Dieulafoy lesion noted, s/p epi and BiCAP

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with chronic right shoulder pain, 
depression and anxiety, and recent MVA complicated by headaches 
who presented with acute upper GI bleed due to a Dieulafoy 
lesion, s/p EGD and epi, BiCAP.

# Anemia, acute upper GI bleed
# Dieulafoy lesion
Patient presented ___ with a brisk upper GI bleed, received 
multiple units of pRBCs and a successful EGD with treatment for 
a Dieulafoy lesion via epi and BiCAP. In addition he was started 
on a proton-pump inhibitor twice daily and made NPO after his 
procedure and gradually he was able to advance his diet. By 
___ he was no longer requiring transfusions, his Hgb was 
normalizing at 11.4, and he was tolerating a regular diet. He 
was discharged on an oral proton-pump inhibitor to take twice 
daily for 8 weeks and he was set up with GI follow-up in their 
clinic. H. pylori serology was still pending at the time of 
discharge but given he didn't have an ulcer on EGD or symptoms 
of an ulcer and he is not from an endemic area, it wouldn't 
necessarily be indicated to treat him if it were positive 
anyway. 

# Headache, history of migraines
He has a history of migraines. During the hospitalization he had 
headaches that got better as the anemia resolved. He was treated 
with acetaminophen and sumatriptan. He was counseled on the need 
to avoid NSAIDs when possible. He was discharged with a 
prescription for sumatriptan.

# Lumbosacral radiculopathy: 
The patient has a history of lumbosacral radicular pain. It was 
at apparent baseline during the hospitalization and he already 
has plans for an outpatient steroid injection. 

# Depression/anxiety: 
He is on 0.5mg of lorazepam per day as needed for anxiety/panic. 
This was maintained during the hospitalization. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO DAILY:PRN anxiety 
2. Sumatriptan Succinate 100 mg PO DAILY:PRN migraine 
3. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral DAILY:PRN 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Headache 
do not take more than 3 grams per day  
2.  Pantoprazole 40 mg PO Q12H 
take until ___ 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*112 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
4.  Sumatriptan Succinate 100 mg PO DAILY:PRN migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute upper GI bleed
Dieulafoy lesion
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with acute GI bleeding in your stomach caused 
by a "Dieulafoy lesion."  This was successfully treated.  You 
required several blood transfusions.

You will be instructed to take Protonix twice a day for the next 
8 weeks according to your prescription.  We recommend that you 
follow up in GI clinic in the next few weeks.  Please call 
___ to schedule an appointment with either Dr. ___ 
___, or next available.

As we discussed, IF you experience black stool again or GI 
bleeding, we recommend returning to the hospital immediately

Please avoid NSAID medications for now.
 
Followup Instructions:
___